data/rdb19/train.csv
rxn,smiles,ea
1472,[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])([C:14]([H:15])[H:16])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:14]([C:12]([O:11][C:10]([H:17])([H:18])[H:19])([C:13]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],25.191075683338568
4035,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[C:24]1([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]([H:34])[C:25]1[H:33])([H:11])([H:12])[H:13],22.84940253931564
1350,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])[H:6]>>[C:4](=[C:5]([H:8])[H:9])[H:7].[O:1]([C:2](=[O:3])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])[H:6],10.41420706443023
3267,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[N:25]([C:26](=[O:27])[H:34])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([H:24])[N:25]([C:26](=[O:27])[H:34])[H:33],28.086971487500705
731,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:20]([C:19]([H:23])([H:24])[H:25])([H:21])[H:22],18.46169266101788
3814,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[C:17]([C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:26])([H:27])[H:28])[H:25])([H:18])[H:19])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],16.233384411985753
781,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37],21.914137234154623
2993,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])[H:27])([H:23])([H:24])[H:25].[C:1]([H:8])([H:9])([H:10])[H:26].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],82.69264074339299
125,[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([O:16][C:17]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([O:16][C:17]([H:27])[H:29])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][H:28],55.56999901682138
3655,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[O:21][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])[H:26])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.98571723513305
5451,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[N:24]([C:25](=[O:26])[H:32])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[H:30])([H:11])[H:12])([H:8])([H:9])[H:10].[N:5]([C:6](=[O:7])[H:18])[H:17],89.46556683455128
